* Standalone DC check of the exact RU device in emlcell_b's layout:
*   RU_0 vb2 nu VSUB sky130_fd_pr__res_high_po_0p35 L=58.88u W=0.35u
* Inferred from the cell sim as ~66 kohm against a 53.8 kohm design target.
* Force 0.5 uA (the unit current) through it and read the drop.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
VB b 0 0.7
I1 b a 0.5u
XR a b 0 sky130_fd_pr__res_high_po_0p35 L=58.88 W=0.35
.control
set noaskquit
op
print v(a) v(b)
let rr = (v(a)-v(b))/0.5u
print rr
.endc
.end
